US08486967B2
b) 8-(2-Chloro-4-fluorophenyl)-N-(piperidin-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-amine
To a solution of tert-butyl 4-(8-(2-chloro-4-fluorophenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino)piperidine-1-carboxylate (810 mg, 1.82 mmol) in tetrahydrofuran (8 mL) and methanol (6 mL) was added hydrogen chloride solution (4.0 M in dioxane, 2.3 mL, 9.1 mmol). The reaction mixture was stirred for 1.5 hours at 60° C. and then concentrated in vacuo. The residue was diluted with ethyl acetate (40 mL) and washed with aqueous sodium carbonate (1 M, 30 mL), water (30 mL) and brine (30 mL). The aqueous layers were extracted with further ethyl acetate (40 mL). The organic layers were combined, dried over magnesium sulfate and filtered off. Concentration afforded the title compound as yellow foam (639 mg, 98%).

reactant | tert-butyl 4-(8-(2-chloro-4-fluorophenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino)piperidine-1-carboxylate | 1.82 mmol, 810 mg | ClC1=C(C=CC(=C1)F)C=1C=2N(C=CC1)N=C(N2)NC2CCN(CC2)C(=O)OC(C)(C)C | C22H25ClFN5O2
reactant | hydrogen chloride | 9.1 mmol, 4.0 M, 2.3 mL | Cl | ClH
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | methanol | 6 mL | CO | CH4O
product | 8-(2-Chloro-4-fluorophenyl)-N-(piperidin-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-amine | 639 mg, 98% | ClC1=C(C=CC(=C1)F)C=1C=2N(C=CC1)N=C(N2)NC2CCNCC2 | C17H17ClFN5
